US05559111
3-[2(S)-Ethyl-3-(4-propyloxymethyl-naphth-2-yl)-propionyl]-4(R)-benzyl-oxazolidin-2-one:
30 ml of tetrahydrofuran and a solution of 2.97 g of 3-butyroyl-4(R)-benzyl-oxazolidin-2-one in 15 ml of tetrahydrofuran are added dropwise in succession to a solution, stirred at -75° C., of 12 ml of 1M lithium hexamethyldisilazide solution. The reaction mixture is stirred for 1 hour at -75° C., a solution of 3.52 g of 4-propoxymethyl-2-bromomethyl-naphthalene in 15 ml of tetrahydrofuran is added dropwise thereto and the mixture is then stirred further for 1 hour at -30° C. and for 3 hours at 0° C. After the dropwise addition at 0° C. of 2.7 ml of saturated ammonium chloride solution, the reaction mixture is concentrated by evaporation and the residue is partitioned between diethyl ether and water. The organic extracts are concentrated by evaporation and the residue is purified by FC (1 kg of silica gel, eluant: dichloromethane/hexane=3:1), yielding the title compound: Rf (dichloromethane/hexane=3:1)=0.24; FAB-MS (M+Na)+ =482.

reactant | 3-butyroyl-4(R)-benzyl-oxazolidin-2-one | 2.97 g | C(CCC)(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O | C14H17NO3
reactant | lithium hexamethyldisilazide | 1M, 12 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-propoxymethyl-2-bromomethyl-naphthalene | 3.52 g | C(CC)OCC1=CC(=CC2=CC=CC=C12)CBr | C15H17BrO
reactant | ammonium chloride | 2.7 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[2(S)-Ethyl-3-(4-propyloxymethyl-naphth-2-yl)-propionyl]-4(R)-benzyl-oxazolidin-2-one | C(C)[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)CC1=CC2=CC=CC=C2C(=C1)COCCC | C29H33NO4
